* C:\Users\ncard\OneDrive - University of Ottawa\University Archive\Year 5\Fall Term\Electronics 3\Project\LT8570 with cc.asc
XU1 Vfb N025 Vdd Vsw N001 N024 N013 MP_01 0 LT8570
C1 Vdd 0 10µ Rser=1
R1 Vdd N001 100k
R2 N024 0 100k
C2 N013 0 1µ
R3 N025 N026 10k
C3 N026 0 2.2n
C4 N025 0 47p
L2 Vdd Vsw 330µ Rser=5
C5 Vl Vsw 4.7µ Rser=1u
L3 Vl 0 330µ Rser=5
D1 Vl N002 1N5817
R4 Iout Vfb 47k
C6 N002 0 100µ Rser=1u
V1 Vdd 0 12
D2 Vout N003 D
D3 N003 N004 D
D4 N004 N005 D
D5 N005 N006 D
D6 N006 N007 D
D7 N007 N008 D
D8 N008 N009 D
D9 N009 N010 D
D10 N010 N011 D
D11 N011 N012 D
D12 N012 N023 D
D13 N023 N022 D
D14 N022 N021 D
D15 N021 N020 D
D16 N020 N019 D
D17 N019 N018 D
D18 N018 N017 D
D19 N017 N016 D
D20 N016 N015 D
D21 N015 N014 D
R5 Vout N002 1
R6 0 Vout 10k
R7 Vfb 0 {R}
D22 N014 N027 D
D23 N027 N028 D
D24 N028 N029 D
D25 N029 N030 D
D26 N030 N031 D
D27 N031 N032 D
D28 N032 N033 D
D29 N033 N034 D
D30 N034 N035 D
D31 N035 N044 D
D32 N044 N043 D
D33 N043 N042 D
D34 N042 N041 D
D35 N041 N040 D
D36 N040 N039 D
D37 N039 N038 D
D38 N038 N037 D
D39 N037 N036 D
E1 Iout 0 N002 Vout 100
D40 N036 N045 D
D41 N045 N046 D
D42 N046 N047 D
D43 N047 N048 D
D44 N048 N049 D
D45 N049 N050 D
D46 N050 N051 D
D47 N051 N052 D
D48 N052 N053 D
D49 N053 N062 D
D50 N062 N061 D
D51 N061 N060 D
D52 N060 N059 D
D53 N059 N058 D
D54 N058 N057 D
D55 N057 N056 D
D56 N056 N055 D
D57 N055 N054 D
D58 N054 N063 D
D59 N063 N064 D
D60 N064 N065 D
D61 N065 N066 D
D62 N066 N067 D
D63 N067 N068 D
D64 N068 N069 D
D65 N069 N070 D
D66 N070 0 D
.model D D
.lib C:\Users\ncard\OneDrive - University of Ottawa\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100m
.step param R list 3k 8k 10k 50k
.param Rpot=100k
.lib LT8570.sub
.backanno
.end
